US05475109
N-boc-3-(4-chlorobenzyl)piperidin-3-carboxylic acid
A suspension of Ethyl-3-(4-chlorobenzyl)-N-Boc-piperidin-3-carboxylate (36.4 g, 0.105 mol) in isopropyl alcohol (300 mL) was treated with 10 N NaOH (300 mL). The mixture was heated at reflux for 48 hours. The reaction was cooled to room temperature and carefully neutralized by pouting over 1 L of crushed ice and adding 6 N HCl until pH 3. The mixture was then extracted with ethyl acetate (3×500 mL). The combined organic extracts were dried over anhydrous magnesium sulfate, filtered, and concentrated at reduced pressure to give 31 g of the product.

reactant | Ethyl-3-(4-chlorobenzyl)-N-Boc-piperidin-3-carboxylate | 0.105 mol, 36.4 g | C(C)OC(=O)C1(CN(CCC1)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)Cl | C20H28ClNO4
reactant | NaOH | 10 N, 300 mL | [OH-].[Na+]
reactant | HCl | 6 N | Cl | ClH
solvent | isopropyl alcohol | 300 mL | C(C)(C)O | C3H8O
product | N-boc-3-(4-chlorobenzyl)piperidin-3-carboxylic acid | 31 g | C(=O)(OC(C)(C)C)N1CC(CCC1)(C(=O)O)CC1=CC=C(C=C1)Cl | C18H24ClNO4
